US04835157
3-[2-[4-(4-Fluorobenzoyl)piperidin-1-yl]ethyl]thieno[3,4-d]pyrimidine-2,4-dione
N-(3-Carbomethoxythien-4-yl)-N'-(chloroethyl)urea (U.S. Pat. No. 4,670,560) (5.24 g, 20 mmol) was dissolved in isopropanol (100 ml) and treated successively with 4-(4-fluorobenzoyl)piperidine hydrochloride (9.71 g, 40 mmol), sodium bicarbonate (3.7 g, 44 mmol) and sodium iodide (1.90 g, 12 mmol) and the mixture was heated to reflux under a nitrogen atmosphere for 12 hours. The reaction mixture was reduced to half volume, diluted with water, and concentrated to remove the remainder of the alcohol solvent. The residue was extracted with methylene chloride and the combined organic extracts were dried with saturated brine and magnesium sulfate. After concentration of the extracts, the residue was purified on silica gel using methylene chloride/ethanol/ammonium hydroxide (96:3.5:0.5) as eluant. The title compound was recrystallized from ethanol to give 0.598 g (7.4% yield) of beige crystals, mp 208°-215° C. (dec). IR(KBr): 1707, 1672, 1159, 1033, 974, 860, 835, 766, 671 and 460 cm-1 ; MS (DCI), 402 m/z (MH+); 1H NMR (DMSO-d6): δ 1.5-1.7 (m, 4 H), 2.1 (br t, J=7 Hz, 2H), 2.9 (br d, 2H), 3.2-3.55 (m, 3H), 3.9 (t, J=6.2 Hz, 2H), 6.8 (d, J=4 Hz, 1H), 7.3 (t, J=9 Hz, 2H), 8.0 (dd, H=5.8 Hz, 2H), 8.2 (d, J=4 Hz, 1H) and 11.5 (br s, 1H).

reactant | N-(3-Carbomethoxythien-4-yl)-N'-(chloroethyl)urea | C(=O)(OC)C1=CSC=C1NC(=O)NCCCl | C9H11ClN2O3S
reactant | 4-(4-fluorobenzoyl)piperidine hydrochloride | 40 mmol, 9.71 g | Cl.FC1=CC=C(C(=O)C2CCNCC2)C=C1
reactant | sodium bicarbonate | 44 mmol, 3.7 g | C([O-])(O)=O.[Na+]
reactant | sodium iodide | 12 mmol, 1.90 g | [I-].[Na+]
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | 3-[2-[4-(4-Fluorobenzoyl)piperidin-1-yl]ethyl]thieno[3,4-d]pyrimidine-2,4-dione | 0.598 g, 7.4% yield | FC1=CC=C(C(=O)C2CCN(CC2)CCN2C(NC=3C(C2=O)=CSC3)=O)C=C1 | C20H20FN3O3S
